US06544981B2
1-[[(3S) -3-[[2,2-Dicyano-1-[(3-methylphenyl) amino]ethenyl]amino]hexahydro-2-oxo-1H-azepin-1-yl]acetyl]pyrrolidine
3-Methylaniline (32.2 mg, 0.250 mmol) and [bis (methylthio)methylene]propanedinitrile (35.5 mg, 0.209 mmol) were dissolved in ethanol(0.3 mL). The reaction mixture was heated at 80° C. for 3 h. To the mixture was added 1-[[(3S) -3-aminohexahydro-2-oxo-1H-azepin-1-yl]acetyl]pyrrolidine (50.0 mg, 0.209 mmol) and the reaction mixture was heated at 80° C. for another 40 h. Purification by preparative RP HPLC provided the title compound as a pale yellow solid (22 mg, 45%): MS (ESI, pos. ion spectrum) m/z 421; HPLC (method A) tR 3.39 min.

reactant | 3-Methylaniline | 0.250 mmol, 32.2 mg | CC=1C=C(N)C=CC1 | C7H9N
reactant | [bis (methylthio)methylene]propanedinitrile | 0.209 mmol, 35.5 mg | CSC(SC)=C(C#N)C#N | C6H6N2S2
reactant | 1-[[(3S) -3-aminohexahydro-2-oxo-1H-azepin-1-yl]acetyl]pyrrolidine | 0.209 mmol, 50.0 mg | N[C@@H]1C(N(CCCC1)CC(=O)N1CCCC1)=O | C12H21N3O2
solvent | ethanol | 0.3 mL | C(C)O | C2H6O
product | 1-[[(3S) -3-[[2,2-Dicyano-1-[(3-methylphenyl) amino]ethenyl]amino]hexahydro-2-oxo-1H-azepin-1-yl]acetyl]pyrrolidine | 22 mg, 45% | C(#N)C(=C(NC1=CC(=CC=C1)C)N[C@@H]1C(N(CCCC1)CC(=O)N1CCCC1)=O)C#N | C23H28N6O2
